US07425568B2
2-(4-Ethylphenyl)-6-hydroxychroman-4-one was prepared as described for 2-(3-fluorophenyl)-6-hydroxychroman-4-one in Example 9(a) starting from 1.0 g of 2′,5′-dihydroxyacetophenone and 0.8 ml of 4-ethylbenzaldehyde. The product was recrystallised from acetic acid. 1H NMR (400 MHz, d6-DMSO) δ: 7.43 (d, 2H, J 8.1 Hz), 7.25 (d, 2H, J 8.1 Hz), 7.11 (d, 1H, J 3.1 Hz), 7.03 (dd, 1H, J 8.9, 3.1 Hz), 6.93 (d, 1H, J 8.9 Hz), 5.51 (dd, 1H, J 13.0, 2.9 Hz), 3.15 (dd, 1H, J −16.9, 13.0 Hz), 2.75 (dd, 1H, J −16.9, 2.9 Hz), 2.62 (q, 2H, J 7.5 Hz), 1.18 (t, 3H, J 7.5 Hz).

reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4-one | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
reactant | 2′,5′-dihydroxyacetophenone | 1.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 4-ethylbenzaldehyde | 0.8 ml | C(C)C1=CC=C(C=O)C=C1 | C9H10O
product | 2-(4-Ethylphenyl)-6-hydroxychroman-4-one | C(C)C1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)=O)O | C17H16O3
